* C:\Users\JetN Amplify\OneDrive - Duke University\Documents\GitHub\LEDpulser3.asc
V1 N001 0 12
V2 N005 0 PULSE(0 10 .2u 20n 20n 1.3u 3u)
M1 N002 N005 N007 N007 NMOS
R1 N002 N001 1.2k
C1 0 N007 .1nf
D1 N008 0 D
M2 N007 N006 N008 N008 NMOS
V3 N006 0 PULSE(0 10 1.6u 20n 20n .5u 3u)
M3 N008 N004 N003 N003 NMOS
R2 0 N003 50
V4 N004 0 PULSE(0 10 2.2u 20n 20n .5u 3u)
V5 N011 0 PULSE(0 10 .2u 20n 20n 1.3u 3u)
M4 N002 N011 N013 N013 NMOS
C2 0 N013 .1nf
D2 N014 0 D
M5 N013 N012 N014 N014 NMOS
V6 N012 0 PULSE(0 10 1.6u 20n 20n .5u 3u)
M6 N014 N010 N009 N009 NMOS
R3 0 N009 50
V7 N010 0 PULSE(0 10 2.2u 20n 20n .5u 3u)
V8 N017 0 PULSE(0 10 .2u 20n 20n 1.3u 3u)
M7 N002 N017 N019 N019 NMOS
C3 0 N019 .1nf
D3 N020 0 D
M8 N019 N018 N020 N020 NMOS
V9 N018 0 PULSE(0 10 1.6u 20n 20n .5u 3u)
M9 N020 N016 N015 N015 NMOS
R4 0 N015 50
V10 N016 0 PULSE(0 10 2.2u 20n 20n .5u 3u)
V11 N023 0 PULSE(0 10 .2u 20n 20n 1.3u 3u)
M10 N002 N023 N025 N025 NMOS
C4 0 N025 .1nf
D4 N026 0 D
M11 N025 N024 N026 N026 NMOS
V12 N024 0 PULSE(0 10 1.6u 20n 20n .5u 3u)
M12 N026 N022 N021 N021 NMOS
R5 0 N021 50
V13 N022 0 PULSE(0 10 2.2u 20n 20n .5u 3u)
.model D D
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30u
.backanno
.end
