* C:\Users\JetN Amplify\OneDrive - Duke University\Documents\GitHub\LEDpulser4.asc
V1 N001 0 12
V2 N003 0 PULSE(0 10 .2u 20n 20n 1.3u 3u)
M1 N002 N003 N004 N004 NMOS
R1 N002 N001 1.2k
M2 N006 N007 0 0 NMOS
V3 N007 0 PULSE(0 10 1.6u 20n 20n .5u 3u)
M3 0 N008 N009 N009 NMOS
R2 0 N009 50
V4 N008 0 PULSE(0 10 2.2u 20n 20n .5u 3u)
D1 N005 N006 D
C1 0 N005 .1n
R3 N005 N004 100
.model D D
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 30u
.backanno
.end
