* C:\Users\JetN Amplify\OneDrive - Duke University\Documents\GitHub\LEDpulser4_RG58_external timer.asc
V1 N001 0 12
V2 N003 0 PULSE(0 12 0 20n 20n 1u 1.6u 5)
M1 N002 N003 N005 N005 NMOS
R1 N002 N001 1.2k
M2 N009 N011 N008 N008 NMOS
V3 N011 0 PULSE(0 12 1.05u 20n 20n 150n 1.6u 5)
M3 N005 N010 N004 N004 NMOS
R2 0 N004 50
V4 N010 0 PULSE(0 12 1.3u 20n 20n 150n 1.6u 5)
D1 N007 N009 D
C1 0 N007 2.6n
R3 N007 N006 100
O1 N005 0 N006 N008 RG58
.model D D
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\JetN Amplify\OneDrive - Duke University\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1.6u 1u
.model RG58 LTRA(len=3 R=32.81m L=262.5n C=93.5p)
.backanno
.end
